US04460793
20 g of aluminum chloride are dissolved in 2,300 g of 1,1-dichloroethene, while stirring and cooling to -10° C. Thereupon, 1,286 g of 1,3-dichloro-3-methylbutane are added dropwise in the course of 3 hours, and simultaneously, at intervals of 15 minutes, further 3 g portions of aluminum chloride are added in measured amounts to the mixture, a reaction temperature of between 0° and +5° C. being maintained by cooling. After the end of the reaction, 60 ml of acetic acid are added dropwise to the reaction mixture. Thereafter, the product mixture is filtered over sodium sulphate, and is then metered into a distillation apparatus, the trough temperature being kept at 120° C., and a pressure of 1 mbar being maintained; the distillate is cooled and condensed by means of a dry ice/acetone mixture. The crude distillate is then fractionally distilled in vacuo in a Vigreux column. 1,650 g of 3,3-dimethyl-1,1,5-trichloro-1-pentene of boiling point 59° to 63° C./0.1 mm Hg are obtained. 1,1-Dichloro-3,3-dimethyl-1,4-pentadiene

reactant | aluminum chloride | 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dichloro-3-methylbutane | 1,286 g | ClCCC(C)(C)Cl | C5H10Cl2
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | 1,1-dichloroethene | 2,300 g | ClC(=C)Cl | C2H2Cl2
product | 3,3-dimethyl-1,1,5-trichloro-1-pentene | 1,650 g | CC(C=C(Cl)Cl)(CCCl)C | C7H11Cl3
